US07132436B2
N-[4-(2-{[(4-propylphenyl)sulfonyl]amino}-1,3-thiazol-4-yl)phenyl]acetamide
The title compound was prepared from N-[4-(2-amino-1,3-thiazol-4-yl)phenyl]acetamide and 4-n-propylbenzenesulfonyl chloride as described in the synthetic METHOD B to give a yellow solid (1.0 mg) with purity >80%. MS (pos) m/z 416.2.

reactant | N-[4-(2-amino-1,3-thiazol-4-yl)phenyl]acetamide | NC=1SC=C(N1)C1=CC=C(C=C1)NC(C)=O | C11H11N3OS
reactant | 4-n-propylbenzenesulfonyl chloride | C(CC)C1=CC=C(C=C1)S(=O)(=O)Cl | C9H11ClO2S
product | N-[4-(2-{[(4-propylphenyl)sulfonyl]amino}-1,3-thiazol-4-yl)phenyl]acetamide | C(CC)C1=CC=C(C=C1)S(=O)(=O)NC=1SC=C(N1)C1=CC=C(C=C1)NC(C)=O | C20H21N3O3S2
